US06492416B1
To a stirred solution of 3-bromo-2-(4-(methylsulfonyl)phenyl)-1-oxa-spiro[4,4]non-2-en-4-one (77 mg) in 5 ml of toluene and 15 ml ethanol, were added 15 mg of tetrakis(triphenylphosphine)palladium(0), 5 ml of 2 M aqueous sodium carbonate solution, and 27 mg of benzeneboronic acid. Then the reaction solution was stirred at 90° C. for 12 hours. The reaction solvent was evaporated off under reduced pressure and the resulting residue was extracted with 20 ml water and dichloromethane (30 ml×1). The organic layer was concentrated in vacuo and the resulting crude product mixture was purified by column chromatography (hexane/ethylacetate) to obtain 57 mg of 2-{4-(methylsulfonyl)phenyl}-3-phenyl-1-oxa-spiro[4,4]non-2-en-4-one as a solid. mp: 184-185° C. NMR: δ2.09 (m, 6H), 2.17 (m, 2H), 3.06 (s, 3H), 7.26 (m, 2H), 7,35 (m, 3H), 7.81 (d, J=8.1 Hz, 2H), 7.92 (d, J=8.1 Hz, 2H). IR (cm−1): 2925, 1695, 1591, 1403, 1150, 771.

reactant | 3-bromo-2-(4-(methylsulfonyl)phenyl)-1-oxa-spiro[4,4]non-2-en-4-one | 77 mg | BrC1=C(OC2(C1=O)CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C15H15BrO4S
reactant | sodium carbonate | 2 M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzeneboronic acid | 27 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{4-(methylsulfonyl)phenyl}-3-phenyl-1-oxa-spiro[4,4]non-2-en-4-one | 57 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1OC2(C(C1C1=CC=CC=C1)=O)CCCC2 | C21H20O4S
